US07521447B2
Step B: (S)-methyl 4-bromo-2-(tert-butoxycarbonyl)butanoate:
To a cooled (0° C.) solution of (S)-methyl 2-amino-4-bromobutanoate (1.80 g, 6.5 mmol) in THF (20 mL) was added triethylamine (4.53 g, 32.5 mmol) and Boc anhydride (1.49 g, 6.83 mmol, solution in 20 mL THF). The mixture was stirred at 0° C. for 30 minutes and then warmed to room temperature and stirred for 18 hours. The reaction mixture was quenched with 1N HCl (50 mL) and the layers were separated. The aqueous layer was extracted with ether (2×20 mL) and the combined organic extracts were washed with water (20 mL) and brine (20 mL), dried over MgSO4, filtered through Celite, and concentrated under reduced pressure to provide pale yellow oil. The oil was chromatographed eluting with ether; hexanes (1:2) to provide 1.45 g of colorless oil that solidified under high vacuum (75% yield).

reactant | (S)-methyl 2-amino-4-bromobutanoate | 6.5 mmol, 1.80 g | N[C@H](C(=O)OC)CCBr | C5H10BrNO2
reactant | triethylamine | 32.5 mmol, 4.53 g | C(C)N(CC)CC | C6H15N
reactant | Boc anhydride | 6.83 mmol, 20 mL, 1.49 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)-methyl 4-bromo-2-(tert-butoxycarbonyl)butanoate | 1.45 g, 75% yield | BrCC[C@@H](C(=O)OC)C(=O)OC(C)(C)C | C10H17BrO4
